* FILE: MMI_NAND3B.sp


* SPICE netlist for "MMI_NAND3B" (generated by MMI_SUE4.1.5)

.SUBCKT MMI_NAND3B in0 in1 in2 out 
M_0 out in0 vdd vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_1 out in1 vdd vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_2 out in2 vdd vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_3 out in0 net_1 gnd n W='2.76*1u' L=ln_min ad='arean(2.76,sdd)' 
+ as='arean(2.76,sdd)' pd='perin(2.76,sdd)' ps='perin(2.76,sdd)' 
M_4 net_1 in1 net_2 gnd n W='2.76*1u' L=ln_min ad='arean(2.76,sdd)' 
+ as='arean(2.76,sdd)' pd='perin(2.76,sdd)' ps='perin(2.76,sdd)' 
M_5 net_2 in2 gnd gnd n W='2.76*1u' L=ln_min ad='arean(2.76,sdd)' 
+ as='arean(2.76,sdd)' pd='perin(2.76,sdd)' ps='perin(2.76,sdd)' 
.ENDS	$ MMI_NAND3B

.GLOBAL gnd vdd

